### PR TITLE
[Merged by Bors] - feat(Probability/Moments): add lemmas about moment generating functions

### PR DESCRIPTION
**Pull request by Vilin97**
Add `mgf_ident_distrib`, `mgf_sum_iid`.
These are some of the supporting lemmas we have proved on our way to formalizing the central limit theorem.

Co-authored-by: Siyuan Ge <jamesgsy@uw.edu>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Moments.lean [hunk 1]
```diff
@@ -282,6 +287,27 @@ theorem iIndepFun.cgf_sum {X : ι → Ω → ℝ}
   · rw [h_indep.mgf_sum h_meas]
   · exact (mgf_pos (h_int j hj)).ne'
 
+theorem mgf_ident_distrib (X Y : Ω → ℝ) (hident : IdentDistrib X Y μ μ) :
```
Comment (sgouezel) [inline Mathlib/Probability/Moments.lean:290]: Instead of having `X` and `Y` defined on the same space, could you have `X` defined on Omega and `Y` defined on Omega'?

File: Mathlib/Probability/Moments.lean [hunk 2]
```diff
@@ -282,6 +287,27 @@ theorem iIndepFun.cgf_sum {X : ι → Ω → ℝ}
...
+  mgf X μ t = mgf Y μ t := by
```
Comment (sgouezel) [inline Mathlib/Probability/Moments.lean:291]: We have quite rigid indentation rules in mathlib (it may look cumbersome at first, but in the long run it helps to have a coherent library). So, except for the first one, the lines of the statement should be indented by 4 spaces, while the lines of proofs should be indented by 2 spaces (plus additional indentation for subgoals). Here, you do the opposite :-)

File: Mathlib/Probability/Moments.lean [hunk 3]
```diff
@@ -282,6 +287,27 @@ theorem iIndepFun.cgf_sum {X : ι → Ω → ℝ}
...
+theorem mgf_sum_iid
+{X : ι → Ω → ℝ}
+(h_meas : ∀ (i : ι), Measurable (X i))
+(h_indep : ProbabilityTheory.iIndepFun (fun _ => inferInstance) X μ)
+(hident : ∀ (i j : ι), ProbabilityTheory.IdentDistrib (X i) (X j) μ μ)
+(s : Finset ι) (j : ι)
+: ∀ t : ℝ, mgf (∑ i ∈ s, X i) μ t = (mgf (X j) μ (t)) ^ s.card := by
+    intro t
+    rw [iIndepFun.mgf_sum h_indep h_meas]
+    exact Finset.prod_eq_pow_card (fun i si => mgf_ident_distrib (X i) (X j) (hident i j))
```
Comment (sgouezel) [inline Mathlib/Probability/Moments.lean:309]: Indentation is also not mathlib-like here. Let me show you how it should be:
```suggestion
theorem mgf_sum_iid
    {X : ι → Ω → ℝ}
    (h_meas : ∀ (i : ι), Measurable (X i))
    (h_indep : ProbabilityTheory.iIndepFun (fun _ => inferInstance) X μ)
    (hident : ∀ (i j : ι), ProbabilityTheory.IdentDistrib (X i) (X j) μ μ)
    (s : Finset ι) (j : ι) : 
    ∀ t : ℝ, mgf (∑ i ∈ s, X i) μ t = (mgf (X j) μ (t)) ^ s.card := by
  intro t
  rw [iIndepFun.mgf_sum h_indep h_meas]
  exact Finset.prod_eq_pow_card (fun i si => mgf_ident_distrib (X i) (X j) (hident i j))
```
(possibly regrouping some variables on common lines)

File: Mathlib/Probability/Moments.lean [hunk 4]
```diff
@@ -331,6 +357,39 @@ theorem measure_le_le_exp_cgf [IsFiniteMeasure μ] (ε : ℝ) (ht : t ≤ 0)
   rw [exp_add]
   exact mul_le_mul le_rfl (le_exp_log _) mgf_nonneg (exp_pos _).le
 
+open Measurable
+
+theorem mgf_gaussian
+(X: Ω → ℝ) (hXm: Measurable X) (hX: (Measure.map X μ) = (gaussianReal 0 1)) (t : ℝ) :
```
Comment (sgouezel) [inline Mathlib/Probability/Moments.lean:363]: Can you also fix the indentation of this one? Also, I'd move it to the files on gaussians, to avoid putting more imports in the current file (which should remain one of the basic files in probability). Maybe also give the statement for non-centered non-normalized gaussians?

File: Mathlib/Probability/Moments.lean [hunk 5]
```diff
@@ -184,6 +185,9 @@ theorem mgf_neg : mgf (-X) μ t = mgf X μ (-t) := by simp_rw [mgf, Pi.neg_apply
 
 theorem cgf_neg : cgf (-X) μ t = cgf X μ (-t) := by simp_rw [cgf, mgf_neg]
 
+theorem mgf_smul_left (α : ℝ) : mgf (α • X) μ t = mgf X μ (α * t) := by
+  simp_rw [mgf, Pi.smul_apply, smul_eq_mul, mul_comm α t, mul_assoc]
+
```
Comment (Vilin97) [inline Mathlib/Probability/Moments.lean:190]: I am confused why this is flagged as a new change given https://github.com/leanprover-community/mathlib4/pull/19798...

File: Mathlib/Probability/Moments.lean (hunk 1 above)
Comment (Vilin97) [reply Mathlib/Probability/Moments.lean]: Thank you, I used your suggestion.

File: Mathlib/Probability/Moments.lean (hunk 5 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Moments.lean:190]: If you merge master into the branch of this PR it should go away.

File: Mathlib/Probability/Moments.lean [hunk 6]
```diff
@@ -285,6 +286,28 @@ theorem iIndepFun.cgf_sum {X : ι → Ω → ℝ}
   · rw [h_indep.mgf_sum h_meas]
   · exact (mgf_pos (h_int j hj)).ne'
 
+theorem mgf_ident_distrib
+    (X : Ω → ℝ) {Ω' : Type u_1} {m' : MeasurableSpace Ω'} {μ' : Measure Ω'} (X' : Ω' → ℝ)
```
Comment (sgouezel) [inline Mathlib/Probability/Moments.lean:290]:
```suggestion
    (X : Ω → ℝ) {Ω' : Type*} {m' : MeasurableSpace Ω'} {μ' : Measure Ω'} (X' : Ω' → ℝ)
```
This is more robust.

File: Mathlib/Probability/Moments.lean [hunk 7]
```diff
@@ -285,6 +286,28 @@ theorem iIndepFun.cgf_sum {X : ι → Ω → ℝ}
...
+    (hident : IdentDistrib X X' μ μ') (t : ℝ) :
+    mgf X μ t = mgf X' μ' t := by
+  rw [mgf, mgf]
+  apply IdentDistrib.integral_eq
+  let u := fun x => Real.exp (t * x)
+  have compX : (fun ω ↦ Real.exp (t * X ω)) = u ∘ X := rfl
+  have compX' : (fun ω ↦ Real.exp (t * X' ω)) = u ∘ X' := rfl
+  rw [compX, compX']
+  exact IdentDistrib.comp hident (Measurable.exp (measurable_const_mul t))
```
Comment (sgouezel) [inline Mathlib/Probability/Moments.lean:299]: You're telling Lean to rewrite things that it already knows are the same (as you prove them by `rfl`). This means that this is not really necessary, and that you can just skip all these steps, to get:
```suggestion
  apply IdentDistrib.integral_eq
  apply IdentDistrib.comp hident (Measurable.exp (measurable_const_mul t))
```

File: Mathlib/Probability/Moments.lean [hunk 8]
```diff
@@ -285,6 +286,28 @@ theorem iIndepFun.cgf_sum {X : ι → Ω → ℝ}
...
+
+theorem mgf_sum_iid
+    {X : ι → Ω → ℝ}
+    (h_meas : ∀ (i : ι), Measurable (X i))
+    (h_indep : ProbabilityTheory.iIndepFun (fun _ => inferInstance) X μ)
+    (hident : ∀ (i j : ι), ProbabilityTheory.IdentDistrib (X i) (X j) μ μ)
```
Comment (sgouezel) [inline Mathlib/Probability/Moments.lean:305]: could you assume `hident` only for `i, j` in `s`?

File: Mathlib/Probability/Moments.lean [hunk 9]
```diff
@@ -285,6 +286,28 @@ theorem iIndepFun.cgf_sum {X : ι → Ω → ℝ}
...
+    (s : Finset ι) (j : ι) : ∀ t : ℝ, mgf (∑ i ∈ s, X i) μ t = (mgf (X j) μ (t)) ^ s.card := by
```
Comment (sgouezel) [inline Mathlib/Probability/Moments.lean:306]:
```suggestion
    (s : Finset ι) (j : ι) (t : ℝ) : 
    mgf (∑ i ∈ s, X i) μ t = (mgf (X j) μ t) ^ s.card := by
```
Put `t` left of the colon, in this way you don't need to `intro` it in the proof below.

**Review by sgouezel — COMMENTED** [review]
I didn't ask that you should remove the result for the Gaussian, only that you move it to the file about the Gaussian. I think it's definitely a good result to have!

File: Mathlib/Probability/Moments.lean (hunk 8 above)
Comment (Vilin97) [reply Mathlib/Probability/Moments.lean:305]: Yes, done.

**Comment by Vilin97** [comment]
@sgouezel , I just moved the gaussian mgf lemma in another PR: https://github.com/leanprover-community/mathlib4/pull/19896.

I addressed all your comments.

**Comment by Vilin97** [comment]
@sgouezel , friendly ping. Thank you for your attention!

File: Mathlib/Probability/Moments.lean [hunk 10]
```diff
@@ -285,6 +286,23 @@ theorem iIndepFun.cgf_sum {X : ι → Ω → ℝ}
...
+
+theorem mgf_sum_iid
+    {X : ι → Ω → ℝ}
+    (h_meas : ∀ (i : ι), Measurable (X i))
+    (h_indep : ProbabilityTheory.iIndepFun (fun _ => inferInstance) X μ)
+    (s : Finset ι) (j : s)
+    (hident : ∀ (i j : s), ProbabilityTheory.IdentDistrib (X i) (X j) μ μ)
+    (t : ℝ) : mgf (∑ i ∈ s, X i) μ t = (mgf (X j) μ (t)) ^ s.card := by
+  rw [iIndepFun.mgf_sum h_indep h_meas]
+  exact Finset.prod_eq_pow_card (fun i si => mgf_ident_distrib (X i) (X j) (hident ⟨i,si⟩ j) t)
```
Comment (YaelDillies) [inline Mathlib/Probability/Moments.lean:304]:
```suggestion
  exact Finset.prod_eq_pow_card fun i si => mgf_ident_distrib (X i) (X j) (hident ⟨i,si⟩ j) t
```

**Review by YaelDillies — COMMENTED** [review]
Thank you for the PR! Should be easy to get in

**Comment by Vilin97** [comment]
Thanks, @YaelDillies. I applied your suggestions.

File: Mathlib/Probability/Moments.lean [hunk 11]
```diff
@@ -285,6 +286,21 @@ theorem iIndepFun.cgf_sum {X : ι → Ω → ℝ}
...
+theorem mgf_congr_identDistrib
+    (X : Ω → ℝ) {Ω' : Type*} {m' : MeasurableSpace Ω'} {μ' : Measure Ω'} (X' : Ω' → ℝ)
+    (hident : IdentDistrib X X' μ μ') (t : ℝ) :
+    mgf X μ t = mgf X' μ' t := hident.comp (measurable_const_mul t).exp |>.integral_eq
+
+theorem mgf_sum_of_identDistrib
+    {X : ι → Ω → ℝ}
+    (h_meas : ∀ (i : ι), Measurable (X i))
+    (h_indep : ProbabilityTheory.iIndepFun (fun _ => inferInstance) X μ)
+    (s : Finset ι) (j : s)
```
Comment (YaelDillies) [inline Mathlib/Probability/Moments.lean:298]: It's better to have `j : ι` + `j ∈ s` rather than ` j : s`
```suggestion
    {s : Finset ι} {j : ι} (hj : j ∈ s)
```
Also I think `hj` should be the last proof obligation in this statement, namely it should come just before `(t : ℝ)`

File: Mathlib/Probability/Moments.lean [hunk 12]
```diff
@@ -285,6 +286,21 @@ theorem iIndepFun.cgf_sum {X : ι → Ω → ℝ}
...
+    (hident : ∀ (i j : s), ProbabilityTheory.IdentDistrib (X i) (X j) μ μ)
```
Comment (YaelDillies) [inline Mathlib/Probability/Moments.lean:299]:
```suggestion
    (hident : ∀ i ∈ s, ∀ j ∈ s, IdentDistrib (X i) (X j) μ μ)
```

File: Mathlib/Probability/Moments.lean [hunk 13]
```diff
@@ -4,6 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Rémy Degenne
 -/
 import Mathlib.Probability.Variance
+import Mathlib.Probability.IdentDistrib
```
Comment (YaelDillies) [inline Mathlib/Probability/Moments.lean:7]: Please keep imports alphabetical
```suggestion
import Mathlib.Probability.IdentDistrib
import Mathlib.Probability.Variance
```

**Review by YaelDillies — COMMENTED** [review]
Thank you for implementing the changes! Here are a few more suggestions

File: Mathlib/Probability/Moments.lean [hunk 14]
```diff
@@ -285,6 +286,21 @@ theorem iIndepFun.cgf_sum {X : ι → Ω → ℝ}
...
   · exact (mgf_pos (h_int j hj)).ne'
 
+theorem mgf_congr_identDistrib
+    (X : Ω → ℝ) {Ω' : Type*} {m' : MeasurableSpace Ω'} {μ' : Measure Ω'} (X' : Ω' → ℝ)
+    (hident : IdentDistrib X X' μ μ') (t : ℝ) :
+    mgf X μ t = mgf X' μ' t := hident.comp (measurable_const_mul t).exp |>.integral_eq
+
+theorem mgf_sum_of_identDistrib
+    {X : ι → Ω → ℝ}
+    (h_meas : ∀ (i : ι), Measurable (X i))
```
[the remark this answers is not in the document]
Comment (Vilin97) [reply Mathlib/Probability/Moments.lean:296]: But `hident` does not imply `Measurable (X i) μ`, right? And we need it for `mgf_sum`. 
A later refactor might weaken the measurability assumption of `mgf_sum` to `AEMeasurable` or `AEStronglyMeasurable` instead of `Measurable`. But for now, I need `Measurable (X i) μ`.

File: Mathlib/Probability/Moments.lean [hunk 15]
```diff
@@ -285,6 +286,22 @@ theorem iIndepFun.cgf_sum {X : ι → Ω → ℝ}
...
+    mgf X μ t = mgf X' μ' t := hident.comp (measurable_const_mul t).exp |>.integral_eq
+
+theorem mgf_sum_of_identDistrib
+    {X : ι → Ω → ℝ}
+    {s : Finset ι} {j : ι}
+    (h_meas : ∀ i, Measurable (X i))
+    (h_indep : iIndepFun (fun _ => inferInstance) X μ)
+    (hident : ∀ i ∈ s, ∀ j ∈ s, IdentDistrib (X i) (X j) μ μ)
+    (hj : j ∈ s) (t : ℝ) : mgf (∑ i ∈ s, X i) μ t = mgf (X j) μ t ^ #s := by
+  rw [iIndepFun.mgf_sum h_indep h_meas]
```
Comment (YaelDillies) [inline Mathlib/Probability/Moments.lean:301]:
```suggestion
  rw [h_indep.mgf_sum h_meas]
```

File: Mathlib/Probability/Moments.lean (hunk 14 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Probability/Moments.lean]: Ugh, that's annoying, you're right. Can you leave a TODO then?

File: Mathlib/Probability/Moments.lean [hunk 16]
```diff
@@ -261,6 +262,7 @@ theorem iIndepFun.integrable_exp_mul_sum [IsFiniteMeasure μ] {X : ι → Ω →
     refine IndepFun.integrable_exp_mul_add ?_ (h_int i (mem_insert_self _ _)) h_rec
     exact (h_indep.indepFun_finset_sum_of_not_mem h_meas hi_notin_s).symm
 
+-- TODO(vilin97): weaken `h_meas` to `AEMeasurable (X i)` or `AEStronglyMeasurable (X i)` throughout
```
Comment (YaelDillies) [inline Mathlib/Probability/Moments.lean:265]: Are you planning on doing this refactor yourself in the near future? If not, you could open an issue and link it here

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Probability/Moments.lean (hunk 16 above)
Comment (Vilin97) [reply Mathlib/Probability/Moments.lean:265]: I can try, but probably not in the next two weeks. I made an issue: https://github.com/leanprover-community/mathlib4/issues/20367.

Comment (kmill) [reply Mathlib/Probability/Moments.lean:265]: Now that you have an issue number, could you please add it to the comment? Maybe like this?
```suggestion
-- TODO(vilin97): weaken `h_meas` to `AEMeasurable (X i)` or `AEStronglyMeasurable (X i)` throughout
-- https://github.com/leanprover-community/mathlib4/issues/20367
```

File: Mathlib/Probability/Moments.lean [hunk 17]
```diff
@@ -285,6 +287,22 @@ theorem iIndepFun.cgf_sum {X : ι → Ω → ℝ}
   · rw [h_indep.mgf_sum h_meas]
   · exact (mgf_pos (h_int j hj)).ne'
 
+theorem mgf_congr_of_identDistrib
+    (X : Ω → ℝ) {Ω' : Type*} {m' : MeasurableSpace Ω'} {μ' : Measure Ω'} (X' : Ω' → ℝ)
+    (hident : IdentDistrib X X' μ μ') (t : ℝ) :
+    mgf X μ t = mgf X' μ' t := hident.comp (measurable_const_mul t).exp |>.integral_eq
```
Comment (kmill) [inline Mathlib/Probability/Moments.lean:293]: Style:
```suggestion
  mgf X μ t = mgf X' μ' t := hident.comp (measurable_const_mul t).exp |>.integral_eq
```

**Comment by RemyDegenne** [comment]
Thanks!
bors r+

**Comment by RemyDegenne** [comment]
It looks like bors did not react? Let's try again.
bors r+
